* tb_inductor_zscan -- SG13G2 spiral-inductor small-signal impedance scan
*
* TEMPLATE. run_pvt_sweep.sh substitutes the @@...@@ placeholders and writes
* the resulting netlist to netlist-snapshots/<record-id>/<corner-id>.spice.
*
* STATUS: this testbench does not currently produce numbers, and that is the
* result it is here to record.
*
* IHP-Open-PDK v0.3.0 ships NO ngspice-simulatable spiral-inductor model.
* It ships the inductor as a layout + LVS device only:
*   - KLayout PCells   libs.tech/klayout/python/sg13g2_pycell_lib/ihp/
*                      inductor{s,2,3}_code.py
*   - LVS rule decks   libs.tech/klayout/tech/lvs/rule_decks/ind_{extraction,
*                      derivations,connections}.lvs
*   - xschem symbols   libs.tech/xschem/sg13g2_pr/inductor{,3}.sym, whose
*                      format line emits exactly the instance card below
*   - Qucs-S symbol    libs.tech/qucs-s/symbols/inductor_2.xml, whose "L"
*                      parameter is the placeholder equation `w*s` -- a
*                      geometry product, not an inductance, and not a model
* but nothing under libs.tech/ngspice/models/ defines a `.subckt inductor`
* (or `.model` of any inductor flavour) for the simulator to bind to. Running
* this netlist against a stock v0.3.0 install therefore terminates with
*
*   Error: unknown subckt: xl_p1 lp 0 0 inductor w=8.22u ...
*
* and run_pvt_sweep.sh records that verbatim as a MODEL_ABSENT result rather
* than swallowing it. See README.md, "The inductor gap".
*
* HOW TO MAKE IT PRODUCE NUMBERS
* ------------------------------
* Export SG13G2_IND_MODEL_LIB to a SPICE file that defines a `.subckt
* inductor <la> <lb> <sub>` accepting w/s/d/nr_r parameters -- e.g. a
* lumped fit to an openEMS/Palace extraction of the PDK's own inductor
* PCell (that is IHP's own documented route: libs.doc/doc/
* EM_Simulation_Overview.pdf, libs.tech/openems/, libs.tech/palace/).
* run_pvt_sweep.sh then substitutes it below and the same extraction
* arithmetic used for the MIM caps yields L(f), Q(f) and SRF with no
* further change:
*
*   Leff(f) = Im(Z)/(2*pi*f)      series-equivalent inductance
*   Q(f)    = Im(Z)/Re(Z)         quality factor
*   SRF     = the f at which Im(Z) crosses zero going NEGATIVE, i.e. where
*             the spiral stops being net inductive and turns capacitive.
*
* That arithmetic is NOT unvalidated: tb_mimcap_zscan.spice.tmpl runs the
* identical extraction on an ideal R-L-C network with closed-form Leff, Q
* and SRF, and run_pvt_sweep.sh fails the run if it disagrees by more than
* 0.1 %. So what is missing here is the device model, not the method.
*
* GEOMETRIES
* ----------
* The three instances below are lifted verbatim from the PDK's own LVS unit
* testcase (libs.tech/klayout/tech/lvs/testing/testcases/unit/ind_devices/
* netlist/inductor.cdl), so they are geometries IHP itself exercises rather
* than ones this repo invented: a small single-turn, a 5-turn and a 4-turn
* spiral. No claim is made here that any of them suits this block's tank --
* that choice needs the model this file is documenting the absence of.
*
* Corner: inductor_probe
* Record: 20260910-052245-3896421
* PDK models: /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models
* Inductor model library: sim/inductor-model/sg13g2_inductor_em.spice sha256 6f24f9857ab7810c91bda5f6307e78f1dfcbe2afd750bb023e28156ded06d6a0 (via $SG13G2_IND_MODEL_LIB)

.include "/home/ubuntu/loom-workspaces/sg13g2-vco/.loom/worktrees/issue-9/sim/inductor-model/sg13g2_inductor_em.spice"
.temp 27

* Same 1 A AC injection convention as tb_mimcap_zscan -- see that file's
* header for why the source is written "I 0 <node>" and not "I <node> 0".
Ip1 0 lp1 dc 0 ac 1
Ldp1 lp1 0 1
XL_p1 lp1 0 0 inductor w=8.22u s=3.29u d=47.65u nr_r=1

Ip13 0 lp13 dc 0 ac 1
Ldp13 lp13 0 1
XL_p13 lp13 0 0 inductor w=6.10u s=3.29u d=110.11u nr_r=5

Ip11 0 lp11 dc 0 ac 1
Ldp11 lp11 0 1
XL_p11 lp11 0 0 inductor w=8.22u s=3.74u d=141.975u nr_r=4

.control
ac dec 500 1e8 3e11
let fhz  = real(frequency)
let wrad = 2*pi*fhz

let zp1  = imag(v(lp1))
let lp1e = imag(v(lp1))/wrad
let qp1  = imag(v(lp1))/real(v(lp1))
let zp13  = imag(v(lp13))
let lp13e = imag(v(lp13))/wrad
let qp13  = imag(v(lp13))/real(v(lp13))
let zp11  = imag(v(lp11))
let lp11e = imag(v(lp11))/wrad
let qp11  = imag(v(lp11))/real(v(lp11))

meas ac srf_p1  WHEN zp1=0  FALL=1
meas ac srf_p13 WHEN zp13=0 FALL=1
meas ac srf_p11 WHEN zp11=0 FALL=1

meas ac l_p1_1g   FIND lp1e  AT=1e9
meas ac l_p1_5g   FIND lp1e  AT=5e9
meas ac l_p1_10g  FIND lp1e  AT=1e10
meas ac q_p1_1g   FIND qp1   AT=1e9
meas ac q_p1_5g   FIND qp1   AT=5e9
meas ac q_p1_10g  FIND qp1   AT=1e10

meas ac l_p13_1g  FIND lp13e AT=1e9
meas ac l_p13_5g  FIND lp13e AT=5e9
meas ac l_p13_10g FIND lp13e AT=1e10
meas ac q_p13_1g  FIND qp13  AT=1e9
meas ac q_p13_5g  FIND qp13  AT=5e9
meas ac q_p13_10g FIND qp13  AT=1e10

meas ac l_p11_1g  FIND lp11e AT=1e9
meas ac l_p11_5g  FIND lp11e AT=5e9
meas ac l_p11_10g FIND lp11e AT=1e10
meas ac q_p11_1g  FIND qp11  AT=1e9
meas ac q_p11_5g  FIND qp11  AT=5e9
meas ac q_p11_10g FIND qp11  AT=1e10

set wr_singlescale
set wr_vecnames
ac dec 50 1e8 3e11
let fhz  = real(frequency)
let wrad = 2*pi*fhz
let l_ind_p1  = imag(v(lp1))/wrad
let q_ind_p1  = imag(v(lp1))/real(v(lp1))
let l_ind_p13 = imag(v(lp13))/wrad
let q_ind_p13 = imag(v(lp13))/real(v(lp13))
let l_ind_p11 = imag(v(lp11))/wrad
let q_ind_p11 = imag(v(lp11))/real(v(lp11))
wrdata /home/ubuntu/loom-workspaces/sg13g2-vco/.loom/worktrees/issue-9/sim/tank-characterization/records/20260910-052245-3896421-curves/inductor_probe.csv l_ind_p1 q_ind_p1 l_ind_p13 q_ind_p13 l_ind_p11 q_ind_p11
.endc

.end
