* tb_diode_varactor_vscan -- SG13G2 dantenna/dpantenna reverse-bias C(V) scan
*
* TEMPLATE. run_varactor_sweep.sh substitutes the @@...@@ placeholders and
* writes the resulting netlist to
* netlist-snapshots/<record-id>/<corner-id>.spice before handing it to
* ngspice, so every record freezes the exact netlist it simulated
* (sim/README.md rule 3).
*
* DEVICES AND BIAS CONVENTION
* ---------------------------
* dantenna and dpantenna (diodes.lib) are the two junction-diode tuning
* candidates issue #18 names:
*   .subckt dantenna  1 2   -- (bn/pWell anode, NSD cathode)
*   .subckt dpantenna 1 2   -- (PSD anode, nWell cathode)
* Both are reverse-bias antenna/ESD-protection diodes, not devices IHP
* designed for RF tuning -- they are characterized here only because issue
* #18 names them as the junction-diode alternative to sg13_hv_svaricap.
*
* Pin 1 is the anode, pin 2 the cathode (standard SPICE `D n+ n- model`
* order, confirmed by the .subckt's own internal `D1 1 2 darea` /
* `D1 1 2 dparea` lines). This testbench grounds pin 1 (the "hot" node,
* fixed at 0 V DC through a choke, carrying the 1 A AC probe) and drives
* pin 2 with +0.0 V DC through an ideal source -- i.e. cathode more
* positive than anode, which IS reverse bias for both devices at every
* 0.0 >= 0 this study sweeps.
*
* A choke is REQUIRED on the hot node even though a diode is not a DC-open
* device: without one, the DC operating point has no independent reference
* for "hot" other than the diode's own I-V curve against Vctrl, and since
* the AC current source's DC value is exactly 0, ngspice solves for
* V(hot) = V(ctrl) (zero diode current forces zero diode voltage) -- i.e.
* NO reverse bias is actually applied, silently. This was caught during
* testbench development (a first draft without the choke returned a C(V)
* that was completely flat in V) and is exactly the kind of testbench bug
* sim/README.md rule 5 ("method before number") exists to catch before it
* becomes a wrong result.
*
* AREAS
* -----
* Two areas per device (l=w square, DEV_A=(l*w)/1p per diodes.lib's own
* .subckt .params line, i.e. an area in um^2):
*   <dev>_small : l=2u,  w=2u   (DEV_A =  4 um^2)
*   <dev>_large : l=20u, w=20u  (DEV_A = 400 um^2)
* These are NOT chosen to bracket tank-characterization's ~sub-pF..2pF
* target C -- see README.md "Why the diode areas are smaller than the MOS
* geometries' C range" for why that bracket was abandoned for this half of
* the study.
*
* REFERENCE NETWORK (known-answer check on the extraction math) -- identical
* to tank-characterization/testbench/tb_mimcap_zscan.spice.tmpl's; see that
* file's header for the algebra and tb_mos_varactor_vscan.spice.tmpl's
* header for why it is re-run at every point.
*
* CORNER-INVARIANCE, MEASURED NOT ASSUMED
* ----------------------------------------
* cornerDIO.lib's dio_tt/dio_ss/dio_ff sections each `.include "diodes.lib"`
* UNCONDITIONALLY and identically -- verified by reading the file (2AMLogic's
* IHP-Open-PDK v0.3.0 install): the only parameters that differ between the
* three sections are `schottky_nbl1_is`/`schottky_nbl1_kf`, which belong to
* `.subckt dschottky_nbl1`, a device unrelated to dantenna/dpantenna. So
* darea/dperim/dcorner/dparea/dpperim/dpcorner carry NO process-corner
* dependence in this PDK release at all. This testbench still runs all three
* dio_* sections (rather than skip two of them) so that claim is measured,
* not assumed -- the same posture tank-characterization took for MIM-cap
* bias-independence.
*
* Corner: svaricap_dio_ff_-40c_0.0v   (diode section dio_ff, -40 C, Vctrl 0.0 V)
* Record: 20260909-231619-de50891
* PDK models: /Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models

.lib "/Users/rwalters/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerDIO.lib" dio_ff
.temp -40

* ---------------------------------------------------------------- control
Vctrl ctrl 0 dc 0.0 ac 0

* ---------------------------------------------------------- dantenna_small
Idasm 0 hdasm dc 0 ac 1
Ldasm hdasm 0 1
Xdasm hdasm ctrl dantenna l=2u w=2u

* ---------------------------------------------------------- dantenna_large
Idalg 0 hdalg dc 0 ac 1
Ldalg hdalg 0 1
Xdalg hdalg ctrl dantenna l=20u w=20u

* --------------------------------------------------------- dpantenna_small
Idpsm 0 hdpsm dc 0 ac 1
Ldpsm hdpsm 0 1
Xdpsm hdpsm ctrl dpantenna l=2u w=2u

* --------------------------------------------------------- dpantenna_large
Idplg 0 hdplg dc 0 ac 1
Ldplg hdplg 0 1
Xdplg hdplg ctrl dpantenna l=20u w=20u

* --------------------------------- ideal reference network (known answers)
Iref 0 ref dc 0 ac 1
Lref ref refn 1n
Rref refn 0 2
Cref ref 0 100f

.control
* --- pass 1: dense sweep, used only for the scalar .meas extractions -------
ac dec 500 1e8 3e11

let fhz  = real(frequency)
let wrad = 2*pi*fhz

let zdasm = imag(v(hdasm))
let cdasm = imag(1/v(hdasm))/wrad
let qdasm = abs(imag(1/v(hdasm)))/real(1/v(hdasm))
let zdalg = imag(v(hdalg))
let cdalg = imag(1/v(hdalg))/wrad
let qdalg = abs(imag(1/v(hdalg)))/real(1/v(hdalg))
let zdpsm = imag(v(hdpsm))
let cdpsm = imag(1/v(hdpsm))/wrad
let qdpsm = abs(imag(1/v(hdpsm)))/real(1/v(hdpsm))
let zdplg = imag(v(hdplg))
let cdplg = imag(1/v(hdplg))/wrad
let qdplg = abs(imag(1/v(hdplg)))/real(1/v(hdplg))

let zref = imag(v(ref))
let lref = imag(v(ref))/wrad
let qref = imag(v(ref))/real(v(ref))

* SRF: same convention as the MOS template -- a plain reverse-biased
* junction has no plate/feed inductance, so this is EXPECTED to fail (SRF =
* none) at every corner, exactly like tank-characterization's cap_cmim.
meas ac srf_dasm WHEN zdasm=0 RISE=1
meas ac srf_dalg WHEN zdalg=0 RISE=1
meas ac srf_dpsm WHEN zdpsm=0 RISE=1
meas ac srf_dplg WHEN zdplg=0 RISE=1
meas ac srf_ref  WHEN zref=0  FALL=1

meas ac c_dasm_1g   FIND cdasm AT=1e9
meas ac c_dasm_5g   FIND cdasm AT=5e9
meas ac c_dasm_10g  FIND cdasm AT=1e10
meas ac c_dasm_20g  FIND cdasm AT=2e10
meas ac q_dasm_1g   FIND qdasm AT=1e9
meas ac q_dasm_5g   FIND qdasm AT=5e9
meas ac q_dasm_10g  FIND qdasm AT=1e10
meas ac q_dasm_20g  FIND qdasm AT=2e10

meas ac c_dalg_1g   FIND cdalg AT=1e9
meas ac c_dalg_5g   FIND cdalg AT=5e9
meas ac c_dalg_10g  FIND cdalg AT=1e10
meas ac c_dalg_20g  FIND cdalg AT=2e10
meas ac q_dalg_1g   FIND qdalg AT=1e9
meas ac q_dalg_5g   FIND qdalg AT=5e9
meas ac q_dalg_10g  FIND qdalg AT=1e10
meas ac q_dalg_20g  FIND qdalg AT=2e10

meas ac c_dpsm_1g   FIND cdpsm AT=1e9
meas ac c_dpsm_5g   FIND cdpsm AT=5e9
meas ac c_dpsm_10g  FIND cdpsm AT=1e10
meas ac c_dpsm_20g  FIND cdpsm AT=2e10
meas ac q_dpsm_1g   FIND qdpsm AT=1e9
meas ac q_dpsm_5g   FIND qdpsm AT=5e9
meas ac q_dpsm_10g  FIND qdpsm AT=1e10
meas ac q_dpsm_20g  FIND qdpsm AT=2e10

meas ac c_dplg_1g   FIND cdplg AT=1e9
meas ac c_dplg_5g   FIND cdplg AT=5e9
meas ac c_dplg_10g  FIND cdplg AT=1e10
meas ac c_dplg_20g  FIND cdplg AT=2e10
meas ac q_dplg_1g   FIND qdplg AT=1e9
meas ac q_dplg_5g   FIND qdplg AT=5e9
meas ac q_dplg_10g  FIND qdplg AT=1e10
meas ac q_dplg_20g  FIND qdplg AT=2e10

meas ac l_ref_1g   FIND lref AT=1e9
meas ac q_ref_1g   FIND qref AT=1e9

* --- pass 2: coarse sweep, written out as the committed curve file --------
set wr_singlescale
set wr_vecnames
ac dec 50 1e8 3e11
let fhz  = real(frequency)
let wrad = 2*pi*fhz
let c_dasm = imag(1/v(hdasm))/wrad
let q_dasm = abs(imag(1/v(hdasm)))/real(1/v(hdasm))
let c_dalg = imag(1/v(hdalg))/wrad
let q_dalg = abs(imag(1/v(hdalg)))/real(1/v(hdalg))
let c_dpsm = imag(1/v(hdpsm))/wrad
let q_dpsm = abs(imag(1/v(hdpsm)))/real(1/v(hdpsm))
let c_dplg = imag(1/v(hdplg))/wrad
let q_dplg = abs(imag(1/v(hdplg)))/real(1/v(hdplg))
let l_ref  = imag(v(ref))/wrad
let q_ref  = imag(v(ref))/real(v(ref))
wrdata /Users/rwalters/GitHub/sg13g2-vco/.loom/worktrees/issue-18/sim/varactor-characterization/records/20260909-231619-de50891-curves/svaricap_dio_ff_-40c_0.0v.csv c_dasm q_dasm c_dalg q_dalg c_dpsm q_dpsm c_dplg q_dplg l_ref q_ref
.endc

.end
